US08686044B2
Preparation of N-(2-iodo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-3-nitrobenzamide
According to the method of 4-3 of Example 4, a target compound was prepared from 2-iodo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)aniline and 3-nitrobenzoyl chloride.

reactant | 2-iodo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)aniline | IC1=C(N)C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C(F)(F)F | C10H4F10IN
reactant | 3-nitrobenzoyl chloride | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
product | N-(2-iodo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-3-nitrobenzamide | IC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C(F)(F)F)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C17H7F10IN2O3
